US07220883B2
1-Phenyl-2,2-dimethoxyethylamine
6 ml of tetrahydrofuran (THF) and 3.5 mmol of 1-benzyl-4-(1-phenyl-2,2-dimethoxyethylamino)-(S,S)-3,5-bis(1-methoxyethyl)-1,2,4-triazolium bromide are introduced into a 100 ml round-bottomed flask equipped with a reflux condenser and a magnetic stirrer and then 1.75 ml of a 2 mol/l solution of lithium borohydride in THF are added at ambient temperature over a period of 1 to 2 h approximately. The reaction medium is subsequently left stirring at ambient temperature for 3 h and then brought to reflux for 3 h. After returning to ambient temperature, 20 ml of a 20% aqueous sodium hydroxide solution are added and then the aqueous phase is extracted with dichloromethane. The resulting organic phase is dried over anhydrous magnesium sulphate and then concentrated. The amine is purified by distillation. 0.19 g of the expected compound is obtained.

reactant | 1-benzyl-4-(1-phenyl-2,2-dimethoxyethylamino)-(S,S)-3,5-bis(1-methoxyethyl)-1,2,4-triazolium bromide | 3.5 mmol | [Br-].C(C1=CC=CC=C1)[N+]=1N=C(N(C1[C@H](C)OC)NC(C(OC)OC)C1=CC=CC=C1)[C@H](C)OC
reactant | lithium borohydride | [BH4-].[Li+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 1-Phenyl-2,2-dimethoxyethylamine | 0.19 g | C1(=CC=CC=C1)C(C(OC)OC)N | C10H15NO2
